US04971967
Preparation of 3-chloro-2-oxopropyl N-(2,3,4-trifluorophenyl)dithiocarbamate [compound (XV)]:
1,3-Dichloroacetone (2.0 g) was added to methylene chloride (100 ml) and thereto was added triethylammonium N-(2,3,4-trifluorophenyl)dithiocarbamate (5.0 g) (c.f. European patent publication No. 286089) while stirring at 2° to 5° C. After stirring for 60 minutes, the mixture was washed with 3N HCl and then with water. The organic layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The obtained residue was recrystallized from a mixed solvent of hexane - ethyl acetate - ether to give the title compound (4.2 g).

reactant | 1,3-Dichloroacetone | 2.0 g | ClCC(=O)CCl | C3H4Cl2O
reactant | triethylammonium N-(2,3,4-trifluorophenyl)dithiocarbamate | 5.0 g | FC1=C(C=CC(=C1F)F)NC([S-])=S.C(C)[NH+](CC)CC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-2-oxopropyl N-(2,3,4-trifluorophenyl)dithiocarbamate | 4.2 g | FC1=C(C=CC(=C1F)F)NC(SCC(CCl)=O)=S | C10H7ClF3NOS2
